US08877970B2
3-(3-(2-iodophenyl)thioureido)benzenesulfonamide (MIP-1151)
The subject compound was prepared utilizing the procedure described above from 3-isothiocyanatobenzenesulfonamide and 2-iodoaniline. 1H NMR (400 MHz, DMSO-d6) δ 10.07 (s, 1H), 9.52 (s, 1H), 8.01-7.37 (m, 9H), 7.04 (m, 1H); (M+H)+ (434).

reactant | 3-isothiocyanatobenzenesulfonamide | N(=C=S)C=1C=C(C=CC1)S(=O)(=O)N | C7H6N2O2S2
reactant | 2-iodoaniline | IC1=C(N)C=CC=C1 | C6H6IN
product | 3-(3-(2-iodophenyl)thioureido)benzenesulfonamide | IC1=C(C=CC=C1)NC(NC=1C=C(C=CC1)S(=O)(=O)N)=S | C13H12IN3O2S2
